* C:\Users\DIEGO\Documents\IDE\Lab7\Butterworth\Butterworth.asc
R1 N001 Vin 7k
R2 N002 N001 40k
C1 Vout N001 0.68µ
C2 N002 0 0.68µ
RB N003 0 54k
RA Vout N003 480k
XU2 N002 N003 Vss+ Vss- Vout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 Vin 0 AC 1
V2 Vss- 0 -15v
V3 Vss+ 0 15v
.ac dec 100 1 1Meg
.meas AC find frequency when mag(v(vout)/v(vin))=0.707
.lib UniversalOpAmp1.lib
.backanno
.end
